US07601722B2
(2S)-3-[3-(2-fluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]-N,2-dimethylpropan-1-amine
In an analogous manner to Example 19, step 1, 1-[(2R)-3-bromo-2-methylpropyl]-3-(2-fluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide was prepared from 1-(2-fluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide and (R)-3-bromo-2-methylpropan-1-ol giving 0.27 g of the desired product.

reactant | 1-[(2R)-3-bromo-2-methylpropyl]-3-(2-fluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide | BrC[C@@H](CN1S(N(C2=C1C=CC=C2)C2=C(C=CC=C2)F)(=O)=O)C | C16H16BrFN2O2S
reactant | 1-(2-fluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide | FC1=C(C=CC=C1)N1S(NC2=C1C=CC=C2)(=O)=O | C12H9FN2O2S
reactant | (R)-3-bromo-2-methylpropan-1-ol | 0.27 g | BrC[C@@H](CO)C | C4H9BrO
product | (2S)-3-[3-(2-fluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]-N,2-dimethylpropan-1-amine | FC1=C(C=CC=C1)N1S(N(C2=C1C=CC=C2)C[C@H](CNC)C)(=O)=O | C17H20FN3O2S
